US07396844B1
Synthesis of t-butyl 4-(4-carboxybenzenesulfonyl)piperazine-1-carboxylate
4.30 g (11.2 mmol) of t-butyl 4-(4-methoxycarbonylbenzenesulfonyl)-piperazine-1-carboxylate was stirred in 15 ml of methanol and 15 ml of THF. 17 ml of 1 N aqueous sodium hydroxide solution was added to the resultant mixture, and they were stirred at 60° C. overnight. The reaction liquid was evaporated under reduced pressure, and 1 N hydrochloric acid was added to the residue. After the treatment with ethyl acetate as the extractant in an ordinary manner, the title compound was obtained.

reactant | t-butyl 4-(4-methoxycarbonylbenzenesulfonyl)-piperazine-1-carboxylate | 11.2 mmol, 4.30 g | COC(=O)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O6S
reactant | sodium hydroxide | 1 N, 17 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | t-butyl 4-(4-carboxybenzenesulfonyl)piperazine-1-carboxylate | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O6S
